US07091237B2
ethyl(4-acetyl-2-methylphenoxy)acetate
1-(4-Hydroxy-3-methylphenyl)ethanone (90 g) and cesium carbonate (216 g) were stirred in acetonitrile (900 ml) at room temperature under nitrogen for 10 minutes. Ethyl bromoacetate (73 ml) was added and the mixture heated to 40° C. for 3 hours. Further ethyl bromoacetate (2.5 ml) and cesium carbonate (1 g) were added and heating continued for a further hour. The cooled reaction was filtered and the filtrate concentrated to give the title compound as a yellow oil.

reactant | 1-(4-Hydroxy-3-methylphenyl)ethanone | 90 g | OC1=C(C=C(C=C1)C(C)=O)C | C9H10O2
reactant | cesium carbonate | 216 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl bromoacetate | 73 ml | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl bromoacetate | 2.5 ml | BrCC(=O)OCC | C4H7BrO2
reactant | cesium carbonate | 1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 900 ml | C(C)#N | C2H3N
product | ethyl(4-acetyl-2-methylphenoxy)acetate | C(C)OC(COC1=C(C=C(C=C1)C(C)=O)C)=O | C13H16O4
